US04960884
A solution of 0.92 grams (0.0074 mole) of 2-bromopropane in 5 ml of dry tetrahydrofuran was added to a stirred mixture of 0.9 gram (0.04 mole) of magnesium turnings. This mixture was heated to initiate the reaction. A solution of 3.68 grams (0.0296 mole) of 2-bromopropane in 20 ml of dry tetrahydrofuran was added dropwise to the mixture. After complete addition the reaction mixture was stirred and heated at reflux for one hour. The reaction mixture was cooled, and the solution was decanted from the unreacted magnesium. The decanted liquid was added dropwise to a stirred slurry of 5.0 grams (0.037 mole) of zinc chloride in 15 ml of dry tetrahydrofuran. This mixture was stirred at room temperate for one hour. To this slurry was added 0.5 gram (0.004 mole) of tetrabis(triphenylphosphine)palladium and a solution of 2.5 grams (0.0093 mole) of 6-bromo-2-(2-fluoroethoxy)naphthalene (Compound 157, prepared by the method of Example 1 from 6-bromo- 2hydroxynaphthalene) in 20 ml of dry tetrahydrofuran. The reaction mixture was stirred and heated at 50° C. for approximately 18 hours. The mixture was hydrolyzed with 100 ml of a 1 N aqueous hydrochloric acid solution. This mixture was extracted with three 200 ml portions of diethyl ether. The extracts were combined and washed with water. The washed extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving an orange oil which solidified upon standing. This solid was purified by column chromatography on silica gel, eluting with n-hexane:diethyl ether (4:1) to yield 0.85 gram of 2-(2-fluoroethoxy)-6-(1-methylethyl)naphthalene as a solid, mp 46°-48° C.

reactant | 2-bromopropane | 0.0074 mole, 0.92 grams | BrC(C)C | C3H7Br
reactant | magnesium | 0.04 mole, 0.9 gram | [Mg] | Mg
reactant | 2-bromopropane | 0.0296 mole, 3.68 grams | BrC(C)C | C3H7Br
reactant | 6-bromo-2-(2-fluoroethoxy)naphthalene | 0.0093 mole, 2.5 grams | BrC=1C=C2C=CC(=CC2=CC1)OCCF | C12H10BrFO
reactant | 6-bromo- 2hydroxynaphthalene | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 0.037 mole, 5.0 grams | [Cl-].[Zn+2].[Cl-]
product | 2-(2-fluoroethoxy)-6-(1-methylethyl)naphthalene | 0.85 gram | FCCOC1=CC2=CC=C(C=C2C=C1)C(C)C | C15H17FO
